US07446222B2
5-Chloro-2-phenethyloxy-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester
A mixture of 5-chloro-2-hydroxy-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester (100 mg, 0.28 mmol), phenethyl alcohol (31 mg, 0.25 mmol), triphenyl phosphine (74 mg, 0.28 mmol), diisopropyl azodicarboxylate (57 mg, 0.28 mmol) in THF (6 ml) was stirred at room temperature overnight. The mixture was then poured into water and extracted with ether, the organic layers were dried over MgSO4 and evaporated. The residue was chromatographed through an SPE column using iso-hexane to yield the title compound (95 mg, 80%) as an oil.

reactant | 5-chloro-2-hydroxy-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester | 0.28 mmol, 100 mg | C(C)OC(=O)C=1C=C(C=CC1)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)O | C21H17ClO3
reactant | phenethyl alcohol | 0.25 mmol, 31 mg | C(CC1=CC=CC=C1)O | C8H10O
reactant | triphenyl phosphine | 0.28 mmol, 74 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.28 mmol, 57 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5-Chloro-2-phenethyloxy-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester | 95 mg, 80% | C(C)OC(=O)C=1C=C(C=CC1)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)OCCC1=CC=CC=C1 | C29H25ClO3
